US04411839
Following the method of Example 1, N-ethoxycarbonylcyanoacetamide is heated with triethyl orthoacetate and acetic anhydride to give α-cyano-β-ethoxy-β-methyl-N-ethoxycarbonylacrylamide, which in turn is reacted with 2,4,6-trichlorophenylhydrazine. The resulting compound α-cyano-β-methyl-β-(2,4,6-trichlorophenylhydrazino)-N-ethoxycarbonylacrylamide (m.p.=183°-184°) is cyclized, yielding 5-cyano-6-methyl-1-(2,4,6-trichloroanilino)-2,4-pyrimidinedione, m.p.=>305°.

reactant | N-ethoxycarbonylcyanoacetamide | C(C)OC(=O)NC(CC#N)=O | C6H8N2O3
reactant | triethyl orthoacetate | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | α-cyano-β-ethoxy-β-methyl-N-ethoxycarbonylacrylamide | C(#N)C(C(=O)NC(=O)OCC)=C(C)OCC | C10H14N2O4
